US06387919B1
A solution of 3.78 g (25.0 mmol) of 3-isopropoxy aniline and di-tert-butyl dicarbonate in 25 mL of THF was heated to reflux for 2 h. The solution was cooled to ambient temperature, and solvent was removed in vacuo. The residue was dissolved in 100 mL of EtOAc, and the solution was washed with three 50-mL portions of 0.5 M citric acid and 50 mL of brine. The solution was dried over MgSO4 and removal of solvent in vacuo afforded N-(t-butyloxy-carbonyl)-3-isopropoxyaniline as a white solid (5.75 g, 92%): mp 79-81° C.; 1H NMR (DMSO-d6): δ 1.21 (d, J=6.0 Hz, 6H), 1.43 (s, 9H), 4.46 (septet, J=6 Hz, 1H), 6.47 (dd, J=2.1, 8.1 Hz, 1H), 6.94 (d, J=8.1 Hz, 1H), 7.0-7.1 (m, 2H), 9.23 (s, 1H); APCI−MS: m/z 274 (M+Na)+. To a solution of 2.5 g (10 mmol) of N-(t-butyloxycarbonyl)-3-isopropoxyaniline in 15 mL of dry THF at −78° C. was added 15 mL (25 mmol) of 1.7 M t-butyllithium in hexanes. The mixture was stirred at −20° C. for 2 h. A solution of 1.84 g (12.5 mmol) of diethyl oxalate in 10 mL of dry THF was added slowly over 5 min, and the mixture was stirred at −20° C. for 2 h. The reaction mixture was then poured into 100 mL of 1.0 N HCl and extracted with two 100-mL portions of EtOAc. Solvent was removed in vacuo, and the residue was dissolved in 100 mL of a 1:1 mixture of EtOH and 6 N HCl and heated to reflux for 1 h. The mixture was cooled to ambient temperature and was extracted with four 100-mL portions of EtOAc. The combined extracts were evaporated to dryness to provide crude 4-isopropoxy-1H-indol-2,3-dione, which was dissolved in 10 mL of EtOH containing 0.50 g (2.2 mmol) of 4-sulfonamidophenylhydrazine hydrochloride. The solution was heated to 80° C. for 1 h and cooled to ambient temperature. The resulting solid was collected by vacuum filtration and purified by flash chromatography on silica gel (EtOAc/hexane 3:2) to afford the title compound as a yellow solid (0.052 g, 1.4%): mp>250° C.; 1H NMR (DMSO-d6): δ 3.35 (d, J=6 Hz, 6H), 4.74 (septet, J=6 Hz, 1H), 6.48 (d, J=7.7 Hz, 1tH), 6.69 (d, J=8 Hz, 1H), 7.14-7.2 (m, 3H), 7.47 (d, J=8.7 Hz, 2H), 7.75 (d, J=8.7 Hz, 2H), 11.01 (s, 1H), 12.79 (s, 1H); APCI−MS: m/z 373 (M−H)−. Anal. Calcd for C17H18N4O4S: C, 54.53; H, 4.85; N, 14.96; S, 8.56. Found: C, 54.46; H, 4.84; N, 14.90; S, 8.50.

reactant | 3-isopropoxy aniline | 25.0 mmol, 3.78 g | C(C)(C)OC=1C=C(N)C=CC1 | C9H13NO
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(t-butyloxy-carbonyl)-3-isopropoxyaniline | 5.75 g, 92% | C(C)(C)(C)OC(=O)NC1=CC(=CC=C1)OC(C)C | C14H21NO3
